US05536718
5,6-Dihydro-4H-[1,2,4]triazolo[4,3-a][1,5]benzodiazepine
A mixture of 7.0 g of 5,6-dihydro-4H-[1,2,4]triazolo-[4,3-a][1,5]benzodiazepin-5-one in 25 ml of tetrahydrofuran is added 9 ml of 10M boranedimethylsulfide in tetrahydrofuran. The mixture is refluxed for 6 hours, cooled to room temperature and 25 ml of methanol added dropwise. The volatiles are removed under vacuum and to the residue is added 100 ml of 2N sodium hydroxide. The mixture is refluxed for 5 hours, chilled and extracted with dichloromethane. The extract is washed with 2N citric acid, water and dried (Na2SO4). The solvent is removed under vacuum to give a solid. The solid is purified by chromatography on silica gel to give the desired product.

reactant | 5,6-dihydro-4H-[1,2,4]triazolo-[4,3-a][1,5]benzodiazepin-5-one | 7.0 g | C1=NN=C2N1C1=C(NC(C2)=O)C=CC=C1 | C10H8N4O
reactant | methanol | 25 ml | CO | CH4O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 5,6-Dihydro-4H-[1,2,4]triazolo[4,3-a][1,5]benzodiazepine | C1=NN=C2N1C1=C(NCC2)C=CC=C1 | C10H10N4
